US07696215B2
Using an analogous procedure to that described paragraph (C) in the portion of Example 1 which is concerned with the preparation of starting material methyl 3-[6-[4-(cyclobutyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate was hydrolysed with 1N NaOH to give 3-[6-[4-(cyclobutyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid; NMR Spectrum: (DMSOd6) 1.77 (m, 2H), 2.18 (s, 3H), 2.21 (m, 2H), 2.37 (m, 2H), 3.02 (m, 2H), 3.24 (m, 2H), 3.46 (m, 2H), 3.75 (m, 1H), 4.03 (m, 2H), 7.59 (m, 2H), 7.70 (m, 2H), 7.93 (s, 1H), 8.01 (d, 1H), 8.17 (s, 1H); Mass Spectrum: M+H+ 419.

reactant | methyl 3-[6-[4-(cyclobutyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate | C1(CCC1)N1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C25H28N4O3
reactant | NaOH | 1N | [OH-].[Na+]
product | 3-[6-[4-(cyclobutyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | C1(CCC1)N1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O | C24H26N4O3
